US07723333B2
2-tert-Butyl-4-{[3-(3-hydroxyphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
A mixture of 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate (0.045 g, 0.091 mmol), resorcinol (0.020 g, 0.183 mmol) and K2CO3 (0.063 g, 0.457 mmol) in MeCN (2 ml) was heated in a microwave reactor at 120° C. for 10 mins. The reaction mixture was evaporated and the residue was purified by silica gel column chromatography (Horizons Biotage) using 0-50% EtOAc in DCM as eluent to give the title compound (0.016 g, 41%) as a solid. 1H NMR (500 MHz CDCl3): δ 7.54-7.48 (m, 2H), 7.46-7.41 (m, 3H), 7.13 (t, 1H), 6.46-6.41 (m, 2H), 6.39-6.36 (m, 1H), 5.75 (t, 1H), 5.14 (s, 1H), 3.86 (t, 2H), 3.11-3.04 (m, 2H), 1.86-1.78 (m, 2H), 1.75 (s, 9H); 13C NMR (125 MHz CDCl3): 159.9, 157.1, 135.4, 131.8, 130.4, 129.8, 128.8, 125.3, 108.5, 107.1, 106.9, 102.3, 66.1, 61.8, 42.5, 28.9, 27.8; Mass Spectrum: M+H+ 431.

reactant | 3-[(2-tert-butyl-1,1-dioxido-3-oxo-5-phenyl-2,3-dihydroisothiazol-4-yl)amino]propyl 4-methylbenzenesulfonate | 0.091 mmol, 0.045 g | CC1=CC=C(C=C1)S(=O)(=O)OCCCNC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)(C)C)=O | C23H28N2O6S2
reactant | resorcinol | 0.183 mmol, 0.020 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | K2CO3 | 0.457 mmol, 0.063 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 2 ml | CC#N | C2H3N
product | 2-tert-Butyl-4-{[3-(3-hydroxyphenoxy)propyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.016 g, 41% | C(C)(C)(C)N1S(C(=C(C1=O)NCCCOC1=CC(=CC=C1)O)C1=CC=CC=C1)(=O)=O | C22H26N2O5S
